US06953857B2
{3-[2-(2,4-Dichlorophenyl)-ethoxy]-4-methoxy-phenyl}-(4-pyridin-2-ylmethyl-piperazin-1-yl)-methanone
0.100 g (0.29 mmol) of 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methoxy-benzoic acid was dissolved in 2 ml of DMF and treated with 0.146 ml (1.16 mmol) of N-NEM and 51 mg (0.29 mmol) of 1-Pyridin-2-ylmethyl-piperazine and 0.098 g (0.3 mmol) of TOTU. The solution was stirred for 1 h at RT. The solvent was removed under reduced pressure, the residue was taken-up in DCM and the solution was washed three times with saturated aqueous sodium bicarbonate. The organic phase was dried with sodium sulphate, filtered and the solvent was removed under reduced pressure. The residue was chromatographed on silica gel eluting with n-heptane/ethyl acetate (1/1), ethyl acetate, and ethyl acetate/MeOH (10/1).

reactant | 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methoxy-benzoic acid | 0.29 mmol, 0.100 g | ClC1=C(C=CC(=C1)Cl)CCOC=1C=C(C(=O)O)C=CC1OC | C16H14Cl2O4
reactant | 1-Pyridin-2-ylmethyl-piperazine | 0.29 mmol, 51 mg | N1=C(C=CC=C1)CN1CCNCC1 | C10H15N3
reactant | TOTU | 0.3 mmol, 0.098 g | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | {3-[2-(2,4-Dichlorophenyl)-ethoxy]-4-methoxy-phenyl}-(4-pyridin-2-ylmethyl-piperazin-1-yl)-methanone | ClC1=C(C=CC(=C1)Cl)CCOC=1C=C(C=CC1OC)C(=O)N1CCN(CC1)CC1=NC=CC=C1 | C26H27Cl2N3O3
